US07723333B2
2,6-Dimethylphenyl 4-aminobutanoate hydrochloride
2,6-Dimethylphenyl 4-[(tert-butoxycarbonyl)amino]butanoate (0.49 g, 1.594 mmol) was dissolved in DCM (20 ml) and HCl (4M in dioxane, 1.2 ml) was added dropwise at 0° C. The mixture was stirred for 30 minutes at 0-2° C. before the ice bath was removed and stirring was continued at rt. The mixture was evaporated in vacuum to give the title compound (0.371 g, 86%) as a white solid. It was used without further purification. 1H NMR (400 MHz, DMSO-d6): δ 1.88-1.96 (m, 2H), 2.07 (s, 6H), 2.80 (t, 2H), 2.85 (bs, 2H), 7.02-7.11 (m, 3H), 8.10 (bs, 3H).

reactant | 2,6-Dimethylphenyl 4-[(tert-butoxycarbonyl)amino]butanoate | 1.594 mmol, 0.49 g | C(C)(C)(C)OC(=O)NCCCC(=O)OC1=C(C=CC=C1C)C | C17H25NO4
reactant | HCl | 4M, 1.2 ml | Cl | ClH
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | 2,6-Dimethylphenyl 4-aminobutanoate hydrochloride | 0.371 g, 86% | Cl.NCCCC(=O)OC1=C(C=CC=C1C)C | InChI=1S/C12H17NO2.ClH/c1-9-5-3-6-10(2)12(9)15-11(14)7-4-8-13;/h3,5-6H,4,7-8,13H2,1-2H3;1H
